US04185115
Ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate
A solution of 49.5 g. of ethyl 4-aminobenzoate, 34.9 g. of 3-(p-chlorophenyl)propanol O-mesylate in 100 ml. of hexamethylphosphoramide is heated at 125°-130° C. for 16 hours. The solution is diluted with 50 ml. of tetrahydrofuran and with 150 ml. of water. Chilling and filtering gives crystals which are washed with water and recrystallized from ethanol to give 28.3 g. of light yellow crystals. Recrystallizations give the product as crystals, m.p. 122°-124° C.

reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3-(p-chlorophenyl)propanol O-mesylate | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)Cl | C10H13ClO3S
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate | ClC1=CC=C(C=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C18H20ClNO2
